US04327107
Preparation of 2-Imino-1,3-dimethyl-4-(2-dimethylaminoethyl)imidazolidine Dihydrochloride Hydrate (4:1)
To 10.0 g (0.047 mole) of 4-(2-chloroethyl)-2-imino-1,3-dimethylimidazolidine hydrochloride was added 6.8 g (0.15 mole) of dimethylamine in 175 ml of methanol. The mixture was heated in a steel bomb at 100° C. for 15 hours. After concentrating in vacuo, the residue was partitioned between a dilute sodium carbonate solution and chloroform. The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The residue was dissolved in ethyl acetate and treated with ethereal HCl. The hydrochloride was recrystallized from ethanol twice, and weighed 3.2 g (26% yield); m.p. 210°-212° C.

reactant | 4-(2-chloroethyl)-2-imino-1,3-dimethylimidazolidine hydrochloride | 0.047 mole, 10.0 g | Cl.ClCCC1N(C(N(C1)C)=N)C
reactant | dimethylamine | 0.15 mole, 6.8 g | CNC | C2H7N
reactant | methanol | 175 ml | CO | CH4O
product | 2-Imino-1,3-dimethyl-4-(2-dimethylaminoethyl)imidazolidine Dihydrochloride Hydrate | 26% yield | O.Cl.Cl.N=C1N(CC(N1C)CCN(C)C)C | InChI=1S/C9H20N4.2ClH.H2O/c1-11(2)6-5-8-7-12(3)9(10)13(8)4;;;/h8,10H,5-7H2,1-4H3;2*1H;1H2
